US04157256
In a manner similar to above, 1.6 g (0.01 mole) of 3,4,5,6-tetrahydrophthalic anhydride and 2.0 g (0.01 mole) of p-trifluoromethylthioaniline were treated to obtain 2.3 g of N-(p-trifluoromethylthiophenyl)-3,4,5,6-tetrahydrophthalimide (melting point, 112°-114° C.; 70% yield).

reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.01 mole, 1.6 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | p-trifluoromethylthioaniline | 0.01 mole, 2.0 g | FC(SC1=CC=C(N)C=C1)(F)F | C7H6F3NS
product | N-(p-trifluoromethylthiophenyl)-3,4,5,6-tetrahydrophthalimide | 2.3 g, 70% yield | FC(SC1=CC=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)(F)F | C15H12F3NO2S
